US05834468
To a solution of 4-[3-(2-bromophenyl)propyl]benzoic acid (2.0 g) in a mixture of chloroform (50 ml) and ethanol (50 ml) was added dropwise, with stirring, concentrated sulphuric acid (98% w/v, 5.0 ml) and the resulting solution allowed to stand for 40 hours at 20° C. The solution was poured onto a stirred mixture of chloroform (100 ml) and saturated sodium bicarbonate. The organic layer was separated, dried over anhydrous magnesium sulphate and evaporated to give ethyl 4-[3-(2-bromophenyl)propyl)benzoate (2.3 g).

reactant | 4-[3-(2-bromophenyl)propyl]benzoic acid | 2.0 g | BrC1=C(C=CC=C1)CCCC1=CC=C(C(=O)O)C=C1 | C16H15BrO2
reactant | sulphuric acid | 5.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4-[3-(2-bromophenyl)propyl)benzoate | 2.3 g | BrC1=C(C=CC=C1)CCCC1=CC=C(C(=O)OCC)C=C1 | C18H19BrO2
